US05380724
1-(Tert-butoxycarbonyl)-4-(2,6-diamino-4-pyrimidinyl)piperazine
A mixture of 2,6-diamino-4-chloropyrimidine (2.88 g, 20 mmol) and 1- (tert-butoxycarbonyl)piperazine (5.6 g, 30 mmol) in chlorobenzene (30 ml) was stirred under reflux for 3 hours. After cooling the formed precipitate was collected and stirred with aqueous 1N NaOH (63 ml) at room temperature for 15 minutes. The solids were collected, washed with water and dried, yield: 90.4%, mp. 176°-179° C.

reactant | 2,6-diamino-4-chloropyrimidine | 20 mmol, 2.88 g | NC1=NC(=CC(=N1)Cl)N | C4H5ClN4
reactant | 1- (tert-butoxycarbonyl)piperazine | 30 mmol, 5.6 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | chlorobenzene | 30 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 1-(Tert-butoxycarbonyl)-4-(2,6-diamino-4-pyrimidinyl)piperazine | yield: 90.4% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=NC(=C1)N)N | C13H22N6O2
